US08278441B2
tert-Butyl (8aS)-8a-(2,4-difluoro-5-(pyrimidin-5-yl)phenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-ylcarbamate
A mixture of tert-butyl 8a-(5-bromo-2,4-difluorophenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-ylcarbamate (0.300 g, 0.647 mmol) in 1,2-dimethoxyethane (10 mL), ethanol (4 mL) and water (5 mL) is purged with nitrogen and heated to 97° C. Pyrimidine-5-boronic acid (0.655 g, 5.18 mmol), cesium carbonate (1.90 g, 5.83 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.091 g, 0.129 mmol) is added in a single portion and the reaction is heated at 97° C. for 20 minutes. The reaction is cooled, diluted with water, and extracted with EtOAc. The organic layer is dried over Na2SO4 and the crude product is purified by silica gel chromatography eluting with a linear gradient of 5% to 100% EtOAc in hexanes to give the title compound (0.258 g, 86%). ES/MS (m/e): 463 (M+1).

reactant | tert-butyl 8a-(5-bromo-2,4-difluorophenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-ylcarbamate | 0.647 mmol, 0.300 g | BrC=1C(=CC(=C(C1)C12N=C(SCC1COCC2)NC(OC(C)(C)C)=O)F)F | C18H21BrF2N2O3S
reactant | Pyrimidine-5-boronic acid | 5.18 mmol, 0.655 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 5.83 mmol, 1.90 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.129 mmol, 0.091 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl (8aS)-8a-(2,4-difluoro-5-(pyrimidin-5-yl)phenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-ylcarbamate | 0.258 g, 86% | FC1=C(C=C(C(=C1)F)C=1C=NC=NC1)[C@@]12N=C(SCC1COCC2)NC(OC(C)(C)C)=O | C22H24F2N4O3S
